US06670429B2
(i) Synthesis of Butylene Terephthalate Monomer
474 g of dimethyl terephthalate and 660 g of 1,4-butanediol were placed into a 2 liter round bottomed flack fitted with a condenser, vigreux distillation column, nitrogen inlet and mechanical stirrer. The reactor was placed inside an isomantle and slowly heated to a temperature of 160° C. At this point 248 mg of tetrabutyl titanate catalyst pre-mixed with a small amount of pure 1,4-butanediol was injected, whilst the reactor contents were being stirred. The reaction was allowed to continue for 1 hour at 200° C. Methanol vapor which is produced during the reaction, was removed via the vigreux distillation column and combined condenser. The composition of the product was 82% by weight of butylene terephthalate (as confirmed by NMR) and 18% by weight of 1,4-butanediol.

reactant | dimethyl terephthalate | 474 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | 1,4-butanediol | 660 g | C(CCCO)O | C4H10O2
product | Butylene Terephthalate | C1(C2=CC=C(C(=O)OCCCCO1)C=C2)=O | C12H12O4
